US07825267B2
To a stirred solution of (S,Z)-5-((2R,3R,5S,6S)-2,5-dimethyl-6-((E)-3-methylpenta-2,4-dienyl)-tetrahydro-2H-pyran-3-ylamino)-5-oxopent-3-en-2-yl acetate (26.5 mg, 0.0758 mmol) in MeOH (380 μL) was added K2CO3 (26.3 mg, 0.190 mmol) at 0° C. under an open atmosphere. After 2 h at the same temperature the reaction was diluted with saturated aqueous NH4Cl (60 μL) and stirred for 5 min. The resulting reaction mixture was dried over anhydrous Na2SO4, filtered, and concentrated under reduced pressure. The resulting residue was purified by flash chromatography (20→50% EtOAc in hexanes) on silica gel (3 mL) to give (S,Z)-N-((2R,3R,5S,6S)-2,5-dimethyl-6-((E)-3-methylpenta-2,4-dienyl)-tetrahydro-2H-pyran-3-yl)-4-hydroxypent-2-enamide (19.2 mg, 82%) as a colorless oil.

reactant | (S,Z)-5-((2R,3R,5S,6S)-2,5-dimethyl-6-((E)-3-methylpenta-2,4-dienyl)-tetrahydro-2H-pyran-3-ylamino)-5-oxopent-3-en-2-yl acetate | 0.0758 mmol, 26.5 mg | C(C)(=O)O[C@@H](C)\C=C/C(=O)N[C@H]1[C@H](O[C@H]([C@H](C1)C)C\C=C(\C=C)/C)C | C20H31NO4
reactant | K2CO3 | 0.190 mmol, 26.3 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 380 μL | CO | CH4O
solvent | NH4Cl | 60 μL | [NH4+].[Cl-]
product | (S,Z)-N-((2R,3R,5S,6S)-2,5-dimethyl-6-((E)-3-methylpenta-2,4-dienyl)-tetrahydro-2H-pyran-3-yl)-4-hydroxypent-2-enamide | 19.2 mg, 82% | C[C@H]1O[C@H]([C@H](C[C@H]1NC(\C=C/[C@H](C)O)=O)C)C\C=C(\C=C)/C | C18H29NO3
